US06251905B1
iv) Synthesis of 4,5-dihydro-4-[5-(trifluoromethanesulfonamido)pentan-1-yl]-3H-1,4,8b-triazaacenaphthylen-3-one.hydrochloride
In a mixture solvent consisting of 5 ml of ethanol and 0.1 ml of 12N HCl was dissolved 593 mg (1.52 mmol) of 4,5-dihydro-4-[5-(trifluoromethanesulfonamido)pentan-1-yl]-3H-1,4,8b-triazaacenaphthylene-3-one. The solvent was distilled off under reduced pressure to leave 650 mg of the desired compound (100%, pale yellow solid).

reactant | HCl | 12N, 0.1 ml | Cl | ClH
reactant | 4,5-dihydro-4-[5-(trifluoromethanesulfonamido)pentan-1-yl]-3H-1,4,8b-triazaacenaphthylene-3-one | 1.52 mmol, 593 mg | FC(S(=O)(=O)NCCCCCN1C(C2=CN=C3C=CC=C(C1)N32)=O)(F)F | C15H17F3N4O3S
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 4,5-dihydro-4-[5-(trifluoromethanesulfonamido)pentan-1-yl]-3H-1,4,8b-triazaacenaphthylen-3-one.hydrochloride | 650 mg, 100% | Cl.FC(S(=O)(=O)NCCCCCN1C(C2=CN=C3C=CC=C(C1)N32)=O)(F)F | InChI=1S/C15H17F3N4O3S.ClH/c16-15(17,18)26(24,25)20-7-2-1-3-8-21-10-11-5-4-6-13-19-9-12(14(21)23)22(11)13;/h4-6,9,20H,1-3,7-8,10H2;1H
